US04170465
19 g of 1-amino-adamantane were added to 200 ml of benzene and then 9.5 ml of diketene were added thereto over 10 minutes. The mixture was stirred for 21/2 hours at room temperature and after the addition of activated charcoal, the mixture was stirred and filtered. The filtrate was distilled to dryness under reduced pressure and the residue was added to isopropyl ether. The mixture was vacuum filtered to obtain 23.6 g of N-(1-adamantyl)-acetylacetamide melting at 80° C. 23.5 g of the said product and 1 g of p-toluene sulfonic acid were added to a mixture of 50 ml of methanol and 15 ml of methyl orthoformate and the mixture was stirred at room temperature for 24 hours and was then cooled. 2 ml of quinoline were added and the mixture was vacuum filtered. The precipitate was dried to obtain 25.1 g of N-(1-adamantyl)-3,3-dimethoxy-butyramide melting at 140° C.

reactant | 1-amino-adamantane | 19 g | NC12CC3CC(CC(C1)C3)C2 | C10H17N
reactant | diketene | 9.5 ml | C=C1CC(=O)O1 | C4H4O2
reactant | charcoal | C | CH4
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | N-(1-adamantyl)-acetylacetamide | 23.6 g | C12(CC3CC(CC(C1)C3)C2)NC(CC(C)=O)=O | C14H21NO2
